US09303015B2
6-Bromo-4-hydroxy-3-phenoxyquinolin-2(1H)-one
To a solution of methyl 5-bromo-2-(2-phenoxyacetamido)benzoate (7.28 g, 20.0 mmol, Intermediate 5, step a) in tetrahydrofuran (215 mL) at −78° C. was added potassium bis(trimethylsilyl)amide (0.5 M solution in toluene, 118.7 mL, 59.37 mmol) over 7 minutes. The mixture was stirred at −78° C. for 5 minutes and 0° C. for 1.5 hours. The resulting cold solution was quenched with water. The white solid formed was completely dissolved by addition of excess water. The aqueous phase was washed once with EtOAc and then acidified to pH>2 by slow addition of 2 N aqueous HCl solution. The off-white precipitate formed was filtered and dried in the air overnight and at 40° C. for 1 hour to provide the title compound.

reactant | methyl 5-bromo-2-(2-phenoxyacetamido)benzoate | BrC=1C=CC(=C(C(=O)OC)C1)NC(COC1=CC=CC=C1)=O | C16H14BrNO4
reactant | potassium bis(trimethylsilyl)amide | 59.37 mmol, 0.5 M, 118.7 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 215 mL | O1CCCC1 | C4H8O
product | 6-Bromo-4-hydroxy-3-phenoxyquinolin-2(1H)-one | BrC=1C=C2C(=C(C(NC2=CC1)=O)OC1=CC=CC=C1)O | C15H10BrNO3
